US09227976B2
4-chloro-5-(cyclopenten-1-yl)-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine (Compound IIIb)
Nitrogen was bubbled through a suspension of 4-chloro-5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine (60 mg, 0.16 mmol), 2-(cyclopenten-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (35 mg, 0.18 mmol) and K3PO4 (103 mg, 0.48 mmol) in DMF (1 mL) and water (0.3 mL) for 15 min. 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (13 mg, 0.016 mmol) was added and the tube sealed and heated to 30° C. for 16 h. The reaction mixture was diluted with CH2Cl2 and water. The aqueous phase was extracted with CH2Cl2 and the combined organic phases were dried (phase separator cartridge) and concentrated in vacuo. The resultant residue was purified using chromatography (silica gel, CH2Cl2/isohexane 1:1 to 1:0), to provide Compound IIIb as a solid (10 mg).

reactant | 4-chloro-5-iodo-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine | 0.16 mmol, 60 mg | ClC1=C2C(=NN=C1I)N(N=C2C2=CC=CC=C2)C | C12H8ClIN4
reactant | 2-(cyclopenten-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.18 mmol, 35 mg | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
reactant | K3PO4 | 0.48 mmol, 103 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 0.3 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-(cyclopenten-1-yl)-1-methyl-3-phenyl-pyrazolo[3,4-c]pyridazine | 10 mg | ClC1=C2C(=NN=C1C1=CCCC1)N(N=C2C2=CC=CC=C2)C | C17H15ClN4
